US07902252B2
2.95. Synthesis of 4-(naphthalen-2-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (78)
The title compound was synthesized from methyl 4-(naphthalen-2-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.104 g, 0.34 mmol) and lithium hydroxide (0.148 g, 3.53 mmol in 5 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (10 mL) was used. The solvent was removed under reduced pressure, and the residue re-dissolved in ca. 5 mL H2O and acidified to pH 7 with 1 N HCl. The solids formed were collected, affording the title compound as a light pink solid: 77 mg, 76% yield. 1H NMR (400 MHz, ACETONE-d6) δ ppm 2.16 (ddt, J=12.34, 8.74, 5.98, 5.98 Hz, 1H), 2.50-2.76 (m, 3H), 2.92-3.03 (m, 2H), 3.37-3.47 (m, 1H), 6.31 (d, J=1.71 Hz, 1H), 7.41-7.50 (m, 3H), 7.73 (s, 1H), 7.82-7.90 (m, 3H), 10.39 (br. s, 1H); LCMS-MS (ESI−) 290.0 (M−H); HPLC (UV=93.55%), (ELSD=100%).

reactant | methyl 4-(naphthalen-2-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.34 mmol, 0.104 g | C1=C(C=CC2=CC=CC=C12)CC1CCC=2NC(=CC21)C(=O)OC | C20H19NO2
reactant | lithium hydroxide | 3.53 mmol, 5 mL, 0.148 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(naphthalen-2-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1=C(C=CC2=CC=CC=C12)CC1CCC=2NC(=CC21)C(=O)O | C19H17NO2
